US09211350B2
24.3 mg (corresponding to 0.0876 mmol) of 5-(2-bromoacetyl)-2-(1H-imidazole-1-yl)pyridine and 19.3 mg (corresponding to 0.0876 mmol) of 2-amino-5-iodopyridine were dissolved in 2.0 mL of acetonitrile. The resulting solution was heated under reflux for 1.5 hours in an oil bath at 100° C. After the completion of the reaction, the reaction solution was cooled down to room temperature, and precipitates were filtered. The precipitates were washed with acetonitrile and dried under reduced pressure. The resulting crude crystals were suspended in a mixed solution of 2 mL of water and 2 mL of methanol. Then, about 1 mL of a saturated sodium hydrogencarbonate solution was added thereto, and the mixture was sonicated for 10 minutes using an ultrasonic washing machine. Precipitates were filtered and recovered from the resulting mixture, sufficiently washed with water, and dried under reduced pressure, to obtain crude crystals of 6-iodo-2-[2-(1H-imidazole-1-yl)pyridine-5-yl]imidazo[1,2-a]pyridine. The resulting crude crystals were purified by flash silica gel column chromatography (elution solvent: ethyl acetate/methanol=10/1), to obtain 17.7 mg (corresponding to 0.046 mmol) of 6-iodo-2-[2-(1H-imidazole-1-yl)pyridine-5-yl]imidazo[1,2-a]pyridine (FIG. 3, step 3).

reactant | 5-(2-bromoacetyl)-2-(1H-imidazole-1-yl)pyridine | 0.0876 mmol, 24.3 mg | BrCC(=O)C=1C=CC(=NC1)N1C=NC=C1 | C10H8BrN3O
reactant | 2-amino-5-iodopyridine | 0.0876 mmol, 19.3 mg | NC1=NC=C(C=C1)I | C5H5IN2
solvent | acetonitrile | 2.0 mL | C(C)#N | C2H3N
product | 6-iodo-2-[2-(1H-imidazole-1-yl)pyridine-5-yl]imidazo[1,2-a]pyridine | IC=1C=CC=2N(C1)C=C(N2)C=2C=CC(=NC2)N2C=NC=C2 | C15H10IN5
